US07498353B2
Pybop (164 mg, 0.32 mmol), diisopropylethylamine (50 mg, 0.39 mmol) and N-boc-L-valine (69 mg, 0.32 mmol) were added to a solution of N-(4-amino-5-methyl-3-oxohexyl)-2,2-dichloro-N-(2-(3-(2,6-dichlorophenyl)isoxazol-5-yl)pyridin-4-yl)acetamide (Cpd. No. 3, lot 2, 75 mg, 0.11 mmol) in methylene chloride (5 mL) at 0° C. The resulting mixture was stirred at room temperature for 5 h. The reaction mixture was then diluted with methylene chloride (15 mL) and washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by prep-scale reverse phase high performance liquid chromatography to provide tert-butyl 6-(2,2-dichloro-N-(2-(3-(2,6-dichlorophenyl)isoxazol-5-yl)pyridin-4-yl)acetamido)-2-methyl-4-oxohexan-3-ylcarbamate (Cpd. No. 49,100 mg) as a white solid. 1H NMR (CDCl3): 8.86 (d, 1H), 7.98 (s, 1H), 7.45-7.33 (m, 5H), 5.98 (s, 1H), 5.66 (br s, 1H), 4.98 (br s, 1H), 4.55-4.51 (m, 2H), 4.11-4.02 (m, 3H), 3.00-2.93 (m, 2H), 2.20 (m, 1H), 1.48 (s, 9H), 1.09 (d, 3H), 0.90 ppm (d, 3H).

reactant | diisopropylethylamine | 0.39 mmol, 50 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-boc-L-valine | 0.32 mmol, 69 mg | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | N-(4-amino-5-methyl-3-oxohexyl)-2,2-dichloro-N-(2-(3-(2,6-dichlorophenyl)isoxazol-5-yl)pyridin-4-yl)acetamide | NC(C(CCN(C(C(Cl)Cl)=O)C1=CC(=NC=C1)C1=CC(=NO1)C1=C(C=CC=C1Cl)Cl)=O)C(C)C | C23H22Cl4N4O3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 6-(2,2-dichloro-N-(2-(3-(2,6-dichlorophenyl)isoxazol-5-yl)pyridin-4-yl)acetamido)-2-methyl-4-oxohexan-3-ylcarbamate | ClC(C(=O)N(C1=CC(=NC=C1)C1=CC(=NO1)C1=C(C=CC=C1Cl)Cl)CCC(C(C(C)C)NC(OC(C)(C)C)=O)=O)Cl | C28H30Cl4N4O5
